US08022205B2
A solution of bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (200 mg, 0.370 mmol), 4-bromobenzoic acid methyl ester (95 mg, 0.444 mmol), palladium acetate (10.0 mg, 0.0444 mmol), S-Phos (36.4 mg, 0.0888 mmol) and potassium phosphate (157 mg, 0.740 mmol) in dimethylformamide (3 ml) was degassed under ultrasonic irradiation, and stirred at 100° C. for 3 hours. To this, water was added, and the precipitate was filtered, which was subsequently dissolved in dichloromethane, and dried over sodium sulfate, followed by concentration under reduced pressure. Purification by silica gel column chromatography (dichloromethane/methanol=200/1) afforded 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-benzoic acid methyl ester as a yellow powder (143.5 mg, Yield 57%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 0.370 mmol, 200 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 4-bromobenzoic acid methyl ester | 0.444 mmol, 95 mg | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
reactant | S-Phos | 0.0888 mmol, 36.4 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | potassium phosphate | 0.740 mmol, 157 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.0444 mmol, 10.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 4-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-benzoic acid methyl ester | 143.5 mg, Yield 57% | COC(C1=CC=C(C=C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2)=O | C38H39N7O5
